Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
chest pain during carboplatin infusion
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with mild developmental delay, metastatic ovarian cancer
currently on carboplatin, who is admitted from the ED for 
work-up
and management of chest pain that started during carboplatin
infusion in clinic. 

Of note, she was last admitted in mid ___ for abdominal
pain and inability to tolerate PO. She was given IVF, started on
dicyclomine and simethicone with improvement. 

Given most recent imaging suggesting disease
recurrence/progression. She was started on carboplatin for her
platinum-sensitive disease. She was premedicated, then 15 
minutes
into the infusion she noted development of substernal chest pain
rated ___. The infusion was promptly stopped, and the patient
was given 10 mg IV dex as well as0.5 mg PO Ativan. Her chest 
pain
persisted, though with some improvement. She was transported to
the ___ ED for further management. 

In the ED, initial vitals:  97.7 114 124/83 18 97% RA

- Exam notable for mildly decreased lung sounds right base and
mild RLQ abdominal pain without rebound or guarding 
- Labs were notable for: trop < 0.01 x 2, CBC and CHEM7 similar
to baseline
- Imaging: CTA chest negative for PE, showed bilateral
atelectasis 
- Patient was given:  morphine ___ 15 mg x 1, Tylenol ___ mg, 
home
meds
- Consults: None 
- Decision was made to admit to ___ for pain management and
observation

- Vitals prior to transfer were 107/69 58 16 98% RA 

On arrival to the floor, she is resting comfortably in bed and
endorses mild improvement in the pain to ___. She has never had
pain like this before. No worsening with position, but slightly
worse with inspiration and worse with palpation of the area. No
presyncope, palpitations, dyspnea, nausea, vomiting, abdominal
pain, diarrhea, constipation, rash, extremity swelling, fever,
rigors, headache, vision changes, dysphagia. 

 
Past Medical History:
PAST MEDICAL & SURGICAL HISTORY:
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
- Chronic abdominal pain
- History of ovarian cancer, metastatic, with extensive 
resection
& chemotherapy, with local recurrence 
 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vitals:  97.7 124/89 94 18 97% RA
GENERAL:  friendly, appropriately interactive
HEENT:  NCAT, MM slightly dry, no oropharyngeal lesion
NECK:  supple without adenopathy palpable
LUNGS:  CTAB without adventitious sounds, decreased air entry at
R lung base, R chest port c/d/I with no swelling or surrounding
erythema, able to reproduce pain with palpation of sternum
CV:  RRR no m/r/g
ABD:  mildly tender in RLQ without rebound or guarding, +BS
EXT: wwp, no edema 
SKIN:  No rash
NEURO: moving all four extremities without focal deficit

DISCHARGE PHYSICAL EXAM:
========================
Vitals:  98.2 | 108/77 | 80 | 17 | 96% ON ra | 87.9 KG 
GENERAL:  friendly, appropriately interactive
HEENT:  NCAT, MM slightly dry, no oropharyngeal lesion
NECK:  supple without adenopathy palpable
LUNGS:  CTAB without adventitious sounds, decreased air entry at
R lung base, R chest port c/d/I with no swelling or surrounding
erythema, able to reproduce pain with palpation of sternum
CV:  RRR no m/r/g
ABD:  mildly tender in RLQ without rebound or guarding, +BS
EXT: wwp, no edema 
SKIN:  No rash
NEURO: moving all four extremities without focal deficit
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:30PM BLOOD WBC-5.9 RBC-3.95 Hgb-10.3* Hct-33.1* 
MCV-84 MCH-26.1 MCHC-31.1* RDW-14.6 RDWSD-44.3 Plt ___
___ 07:30PM BLOOD Neuts-88.8* Lymphs-9.3* Monos-0.8* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-5.27 AbsLymp-0.55* 
AbsMono-0.05* AbsEos-0.01* AbsBaso-0.01
___ 07:30PM BLOOD Glucose-159* UreaN-13 Creat-0.8 Na-142 
K-4.1 Cl-104 HCO3-24 AnGap-14
___ 07:30PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:30PM BLOOD Calcium-8.7 Phos-1.9* Mg-2.0

RELEVANT INTERVAL LABS
=======================
___ 07:30PM BLOOD cTropnT-<0.01
___ 05:21AM BLOOD cTropnT-<0.01

IMAGING
=======
___ CTA CHEST
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Bibasilar atelectasis. 
3. Hepatic steatosis. 

___ EKG
NSR, non-ischemic 

DISCHARGE LABS
==============
___ 05:21AM BLOOD WBC-13.5*# RBC-4.04 Hgb-10.6* Hct-33.2* 
MCV-82 MCH-26.2 MCHC-31.9* RDW-14.6 RDWSD-43.8 Plt ___
___ 05:21AM BLOOD Glucose-136* UreaN-11 Creat-0.8 Na-144 
K-4.2 Cl-103 HCO3-25 AnGap-16
___ 05:21AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.___ with mild developmental delay, metastatic ovarian cancer 
currently on carboplatin (platinum sensitive), who is admitted 
from the ED for work-up and management of chest pain that 
started during carboplatin infusion in clinic. 

ACTIVE ISSUES
=============
# Chest pain, from
# Costochondritis: etiology unclear, may be related to 
carboplatin infusion. Of note, reaction to carboplatin can often 
develop after multiple treatments, though is often more 
consistent with an anaphylaxis like presentation. Patient denied 
any pruritis, difficulty breathing or urticarial/rash. CTA 
negative for PE. Troponin negative x3 and EKG non-ischemic. Exam 
notable for reproducible sternal chest pain, most consistent 
with costochondritis. Started on naproxen, with improvement. 
Plan to continue naproxen 500 mg BID x7 days. 

# Recurrent, platinum sensitive ovarian cancer: platinum 
chemotherapy currently on hold. Will need to address platinum 
re-challenge in outpatient follow-up. 

# Leukocytosis: isolated on day of discharge, without any other 
localizing signs of infection.
- Recommend repeat CBC within 1 week 

CHRONIC ISSUES
===============
# Depression, and
# Anxiety, and 
# IBS: Continued home aripriprazole, amitriptyline, duloxetine, 
lorazepam

# Developmental delay: baseline. 

# Hypothyroidism: Continued home levothyroxine (50 mcg 6x/week, 
100 mcg 1x/week on
___

# Hypertension: Continued home losartan

================================
TRANSITIONAL ISSUES
================================
- Repeat CBC to ensure resolution of leukocytosis
- Consideration of alternative chemotherapies 

I attest that >30 minutes were spent on coordination of care & 
discharge planning. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amitriptyline 25 mg PO QHS 
2. ARIPiprazole 2 mg PO QHS 
3. Estrogens Conjugated 1 gm VG 1X/WEEK (MO) 
4. DULoxetine 120 mg PO DAILY 
5. Gabapentin 600 mg PO QHS 
6. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
7. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
8. LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia 
9. Losartan Potassium 50 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 
11. Ondansetron 8 mg PO Q12H:PRN nausea 
12. Polyethylene Glycol 17 g PO DAILY 
13. Prochlorperazine 10 mg PO Q12H:PRN nausea 
14. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
15. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Loratadine 10 mg PO DAILY 
18. Milk of Magnesia 30 mL PO QHS:PRN constipation 
19. Morphine Sulfate ___ 15 mg PO PRN Pain - Severe 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H Duration: 7 Days  
2.  Morphine Sulfate ___ 15 mg PO BID:PRN Pain - Severe  
3.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
4.  Amitriptyline 25 mg PO QHS  
5.  ARIPiprazole 2 mg PO QHS  
6.  Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY  
7.  DULoxetine 120 mg PO DAILY  
8.  Estrogens Conjugated 1 gm VG 1X/WEEK (MO)  
9.  Gabapentin 600 mg PO QHS  
10.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

11.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
12.  Loratadine 10 mg PO DAILY  
13.  LORazepam 0.5 mg PO QHS:PRN anxiety, insomnia  
14.  Losartan Potassium 50 mg PO DAILY  
15.  Milk of Magnesia 30 mL PO QHS:PRN constipation  
16.  Omeprazole 40 mg PO DAILY  
17.  Ondansetron 8 mg PO Q12H:PRN nausea  
18.  Polyethylene Glycol 17 g PO DAILY  
19.  Prochlorperazine 10 mg PO Q12H:PRN nausea  
20.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Costochondritis
Metastatic ovarian cancer, on carboplatin 
Possible allergic reaction to carboplatin 

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___,

You were sent to the hospital to be checked out after you had 
chest pain during your chemotherapy.

You had an EKG that looked normal. You had multiple blood tests 
which did NOT show any signs of a heart attack or heart damage. 
Your exam showed signs more consistent with COSTOCHONDRITIS 
causing your chest pain, an inflammation in the ribs.

You should take ALEVE, 2 TABS, TWICE PER DAY for the next 7 DAYS 
to help treat this. 

Please follow up with your primary doctor & cancer doctors.

___ was a pleasure caring for you. We wish you the best,
Your ___ Care Team 
 
Followup Instructions:
___